US06951879B2
In analogy to example 20.1, Methanesulfonic acid 4-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-but-3-ynyl ester in EtOH/dioxane was converted to yield Methanesulfonic acid 4-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-butyl ester as a dark brown oil, MS: 396 (MH+, 1Cl).

reactant | Methanesulfonic acid 4-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-but-3-ynyl ester | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCOS(=O)(=O)C | C18H14ClNO3S2
solvent | EtOH dioxane | CCO.O1CCOCC1
product | Methanesulfonic acid 4-[3-(4-chloro-phenyl)-benzo[d]isothiazol-6-yl]-butyl ester | ClC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)CCCCOS(=O)(=O)C | C18H18ClNO3S2
